US08258134B2
A solution of 5-iodo-2H-pyridazin-3-one (66 g, 0.30 mol) in tetrahydrofuran (500 mL) was treated with pyridinium para-toluene sulfonate (14.3 g, 0.057 mol) and 3,4-dihydro-2H-pyran (52 mL). The reaction mixture was stirred at reflux for 5 h. At this time, the reaction was treated with another aliquot of 3,4-dihydro-2H-pyran (32.5 mL). The solution was stirred at reflux overnight. At this time, the solution was concentrated in vacuo. Chromatography (ethyl acetate/petroleum ether=1/2) afforded 5-iodo-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one (89 g, 98%).

reactant | 5-iodo-2H-pyridazin-3-one | 0.30 mol, 66 g | IC1=CC(NN=C1)=O | C4H3IN2O
reactant | pyridinium para-toluene sulfonate | 0.057 mol, 14.3 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 52 mL | O1CCCC=C1 | C5H8O
reactant | 3,4-dihydro-2H-pyran | 32.5 mL | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 5-iodo-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one | 89 g, 98% | IC1=CC(N(N=C1)C1OCCCC1)=O | C9H11IN2O2
